US04578381
1.2 Grams of 2-amino-3-(2-quinolon-3-yl)propionic acid and 0.8 ml of triethylamine were suspended in 10 ml of tetrahydrofuran, then under stirring condition at a room temperature, a solution containing 1.0 g of diethyl chlorophosphate in 10 ml of tetrahydrofuran was added dropwise thereto, and the reaction mixture was stirred at a room temperature for 3 hours. To this reaction mixture was added a solution containing 1.0 g of p-chlorobenzoic acid in 10 ml of tetrahydrofuran dropwise and the whole reaction mixture was further stirred at a room temperature for 10 hours. After completion of the reaction, the crystals precipitated were removed by filtration, the filtrate was concentrated and to the residue was poured a saturated sodium hydrogencarbonate aqueous solution, then extracted with chloroform. The organic layer was washed with water and a saturated sodium chloride aqueous solution and dried with sodium sulfare. The solvent was removed by distillation and the residue was recrystallized from ethanol-water to obtain 0.9 g of 2-(4-chlorobenzoylamino)-3-(2-quinolon-3-yl)propionic acid in the form of white powder product.

reactant | 2-amino-3-(2-quinolon-3-yl)propionic acid | NC(C(=O)O)CC=1C(NC2=CC=CC=C2C1)=O | C12H12N2O3
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl chlorophosphate | 1.0 g | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | p-chlorobenzoic acid | 1.0 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(4-chlorobenzoylamino)-3-(2-quinolon-3-yl)propionic acid | 0.9 g | ClC1=CC=C(C(=O)NC(C(=O)O)CC=2C(NC3=CC=CC=C3C2)=O)C=C1 | C19H15ClN2O4
